US08026257B2
2-((1-(tert-Butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methoxy)-2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetic acid.
To a solution of tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (150 mg, 0.226 mmol) in tetrahydrofuran (1 mL) and methanol (1 mL) at 0° C. was added a solution of lithium hydroxide monohydrate (28.5 mg, 0.679 mmol) in water (0.5 mL). After 1 h, the reaction was concentrated to remove most of the solvent. The resulting residue was dissolved in a minimum of water, and acidified with 1N hydrochloric acid to give a white solid which was collected by filtration. 1H-NMR (CDCl3, 500 MHz) δ 8.83 (bs, 1H), 8.05 (s, 1H), 7.59 (d, J=1.8 Hz, 1H), 7.28 (dd, J=8.9, 5.5 Hz, 2H), 7.10 (s, 1H), 6.98 (dd, J=8.9, 8.6 Hz, 2H), 5.65 (s, 2H), 5.23 (s, 1H), 3.62-3.82 (m, 3H), 3.58 (t, J=8.2 Hz, 2H), 3.37 (d, J=8.9 Hz, 1H), 3.02 (m, 2H), 2.17 (m, 1H), 2.08 (m, 1H), 1.92 (m, 1H), 1.84 (m, 1H), 1.41 (s, 9H), 0.91 (m, 2H), −0.05 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 170.7, 161.5 (d, J=246 Hz), 155.1, 145.3, 138.1, 128.9 (d, J=7.7 Hz), 128.2, 126.5, 126.4, 123.3, 122.7, 119.9, 115.3 (d, J=20.2 Hz), 82.0, 79.7, 78.7, 77.7, 68.0, 41.3, 39.8, 32.1, 31.9, 28.5, 17.9, −1.4.

reactant | tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.226 mmol, 150 mg | ClC1=CC2=CN(N=C2C(=C1)C(C(=O)OC)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C33H45ClFN3O6Si
reactant | lithium hydroxide monohydrate | 0.679 mmol, 28.5 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
product | 2-((1-(tert-Butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methoxy)-2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)F)COC(C(=O)O)C1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)Cl | C32H43ClFN3O6Si
